US06166028
N-(4-Amino-2-methylphenyl)-2-fluorobenzamide
A mixture of 2-fluoro-N-(2-methyl-4-nitrophenyl)benzamide (4.55 g), cyclohexene (30 mL), ethanol (70 mL), water (30 mL) and 10% palladium on charcoal (3 g) is heated at reflux for 30 minutes. The mixture is filtered through diatomaceous earth and concentrated under reduced pressure. The resulting oil is dissolved in 50 mL of ethyl acetate and cooled at 4° C. for 12 hours. Filtration provides the product as a tan solid.

reactant | 2-fluoro-N-(2-methyl-4-nitrophenyl)benzamide | 4.55 g | FC1=C(C(=O)NC2=C(C=C(C=C2)[N+](=O)[O-])C)C=CC=C1 | C14H11FN2O3
reactant | cyclohexene | 30 mL | C1=CCCCC1 | C6H10
reactant | ethanol | 70 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 3 g | [Pd] | Pd
solvent | water | 30 mL | O | H2O
product | N-(4-Amino-2-methylphenyl)-2-fluorobenzamide | NC1=CC(=C(C=C1)NC(C1=C(C=CC=C1)F)=O)C | C14H13FN2O
